US07582629B2
2-tert-Butyl-4-[(4-hydroxyphenyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide
4-{[4-(Benzyloxy)phenyl]amino}-2-tert-butyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.330 g, 0.71 mmol) was dissolved in dry DCM (40 ml). Boron trifluoride diethyl etherate (1.01 g, 7.13 mmol) and dimethyl sulfide (0.443 g, 7.13 mmol) were added and the reaction mixture was stirred at rt for 41 h. The solvent was evaporated and the residue was dissolved in EtOAc (150 ml) The mixture was washed with water (200 ml), dried (MgSO4), filtered and evaporated. The residue was purified by silica gel column chromatography using a heptane and EtOAc (70:30) as eluant to give the title compound (0.111 g, 42%). 1H NMR (500 MHz, CD3OD): δ 7.21-7.16 (m, 1H), 7.13-7.05 (m 4H), 6.63-6.59 (m, 2H), 6.40-6.36 (m, 2H), 1.74 (s, 9H); 13C NMR (125 MHz, CD3OD): δ 161.2, 155.9, 133.9, 130.7, 130.2, 129.5, 128.8, 126.8, 125.5, 115.7, 62.3, 27.9; Mass Spectrum: M+H+ 373.

reactant | 4-{[4-(Benzyloxy)phenyl]amino}-2-tert-butyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.71 mmol, 0.330 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)(C)C)=O | C26H26N2O4S
reactant | Boron trifluoride diethyl etherate | 7.13 mmol, 1.01 g | B(F)(F)F.CCOCC
reactant | dimethyl sulfide | 7.13 mmol, 0.443 g | CSC | C2H6S
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
product | 2-tert-Butyl-4-[(4-hydroxyphenyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.111 g, 42% | C(C)(C)(C)N1S(C(=C(C1=O)NC1=CC=C(C=C1)O)C1=CC=CC=C1)(=O)=O | C19H20N2O4S
